US09233961B2
N-(4-chloro-3-{6-ethyl-[1,3]oxazolo[4,5-b]pyridin-2-yl}phenyl)-furan-2-carboxamide
N-(4-chloro-3-(6-vinyloxazolo[4,5-b]pyridin-2-yl)phenyl)-furan-2-carboxamide (I-22) was dissolved in EtOAc/dichloromethane (1:1; 12 ml). To the solution, catalytic amount of 5 wt % Pd—C was added. The reaction was stirred under hydrogen atmosphere for 30 minutes. LCMS indicated that the reaction was complete with a formation of new peak of desired mass 368.1 (M+1). The reaction was filtered to remove palladium on carbon and the filterate wasn concentrated under reduced pressure. The crude product was purified by column chromatography to yield the desired product N-(4-chloro-3-(6-ethyloxazolo[4,5-b]pyridin-2-yl)phenyl)furan-2-carboxamide (Example 419). 1H NMR (400 MHz, DMSO) δ 10.63 (s, 1H), 8.73 (d, J=2.6 Hz, 1H), 8.51 (d, J=1.8 Hz, 1H), 8.21 (d, J=1.5 Hz, 1H), 8.12-8.03 (m, 1H), 8.00 (dd, J=6.3, 7.0 Hz, 1H), 7.74 (t, J=10.6 Hz, 1H), 7.46-7.38 (m, 1H), 6.75 (dd, J=1.7, 3.5 Hz, 1H), 2.83 (q, J=7.6, 2H), 1.34-1.22 (m, 3H). LCMS M/Z=368.1 (M+1). RT=3.20: Method A.

reactant | N-(4-chloro-3-(6-vinyloxazolo[4,5-b]pyridin-2-yl)phenyl)-furan-2-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1OC=CC1)C=1OC=2C(=NC=C(C2)C=C)N1 | C19H12ClN3O3
solvent | EtOAc dichloromethane | 12 ml | CCOC(=O)C.ClCCl
catalyst | Pd—C | [Pd] | Pd
product | N-(4-chloro-3-(6-ethyloxazolo[4,5-b]pyridin-2-yl)phenyl)furan-2-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1OC=CC1)C=1OC=2C(=NC=C(C2)CC)N1 | C19H14ClN3O3
